US05547954
In another variation in the method to the 2,4-diamino-5,6-disubstituted-5-deazapteridines described above, 2-amino-3-cyano-5-iodo-4-methylpyridine is reacted with trimethylsilylacetylene in the presence of copper(I) iodide and bis(triphenylphosphine)palladium(II) chloride under basic conditions in acetonitrile, affording 2-amino-3-cyano-4-methyl-5-(trimethylsilylethynyl)pyridine. The 5-(trimethylsilylethynyl)pyridine is in turn treated with potassium carbonate in methanol, yielding the corresponding 2-amino-3-cyano-4-methyl-5-ethynylpyridine. The 5-ethynylpyridine is then reacted with an appropriately substituted halide, for example, 4-trifluoromethylphenyl iodide, again in the presence of copper(I)iodide and bis(triphenylphosphine)palladium(II) chloride under basic conditions in acetonitrile, yielding a 2-amino-3-cyano-4-methyl-5-(substituted-ethynyl)pyridine, for example, 2-amino-3-cyano-4-methyl-5-[(4-trifluoromethylphenyl)ethynyl]pyridine. The so-prepared pyridine is then cyclized and hydrohalogenated with chloroformamidine hydrochloride in diglyme, affording the corresponding 2,4-diamino-5-methyl-6-[1-chloro-2-substituted-ethenyl]-5-deazapteridine, for example, 2,4-diamino-5-methyl-6-[1-chloro-2-(4-trifluoromethylphenyl)ethenyl]-5-deazapteridine. Cyclizations with an appropriately substituted 2-amino-3-cyanopyridine and chloroformamidine hydrochloride in diglyme are taught by N. V. Harris et al (J. Med. Chem. 1990, 33, 434-444). Example 10 provides a detailed description of how this reaction is conducted.

reactant | 2-amino-3-cyano-5-iodo-4-methylpyridine | NC1=NC=C(C(=C1C#N)C)I | C7H6IN3
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | copper(I) iodide | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-amino-3-cyano-4-methyl-5-(trimethylsilylethynyl)pyridine | NC1=NC=C(C(=C1C#N)C)C#C[Si](C)(C)C | C12H15N3Si
